US06716833B2
To a solution of 0.25 g (0.620 mmol) of methyl [{[4-(2-butynyloxy)phenyl]sulfonyl}(methyl)amino](4-hydroxyphenyl)acetate in 10 mL of acetone was added 0.342 g of potassium carbonate, 0.231 g (1.241 mmol) of 4-(2-chloroethyl)morpholine hydrochloride and 1 equivalent of sodium iodide. The reaction was heated to reflux for 5 h, diluted with water and extracted with chloroform. The organics were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with chloroform/methanol (9:1) to provide 0.156 g of methyl 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(methyl)amino]-2-{4-[2-(4-morpholinyl)ethoxy]phenyl}acetate.

reactant | methyl [{[4-(2-butynyloxy)phenyl]sulfonyl}(methyl)amino](4-hydroxyphenyl)acetate | 0.620 mmol, 0.25 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C)C(C(=O)OC)C1=CC=C(C=C1)O | C20H21NO6S
reactant | potassium carbonate | 0.342 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 1.241 mmol, 0.231 g | Cl.ClCCN1CCOCC1
reactant | sodium iodide | 1 equivalent | [I-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | methyl 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(methyl)amino]-2-{4-[2-(4-morpholinyl)ethoxy]phenyl}acetate | 0.156 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C1=CC=C(C=C1)OCCN1CCOCC1)C | C26H32N2O7S
